US06756378B2
To a stirred solution of trans-4-amino-1-tert-butoxycarbonyl-(2S)-tert-butyldiphenylsilyloxy) methylpyrrolidine (400 mg, 0.88 mmol), AcOH (120 ml, 2.0 mmol), and 37% HCHO aq (500 ml) in MeOH (10 ml) was added NaBH3CN (111 mg, 1.76 mmol) at 0° C. The reaction mixture was stirred at room temperature for 18 hr. After concentrated in vacuo, water was added and extracted with CH2Cl2. The extract was dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with MeOH—CH2Cl2 (3:97, v/v) as eluent to give trans-1-tert-butoxycarbonyl-(2S)-tert-butyldiphenylsilyloxy)methyl-4-dimethylaminopyrrolidine (330 mg, 78%) as a pale yellow oil. 1H-NMR (CDCl3) δ1.06 (s, 9H), 1.33 and 1.45 (each s total 9H), 1.80-2.25 (m, 2H), 2.23 (br s, 6H), 2.95-4.05 (m, 6H), 7.36-7.39 (m, 6H), 7.63-7.65 (m, 4H).

reactant | methylpyrrolidine | 0.88 mmol, 400 mg | CN1CCCC1 | C5H11N
reactant | AcOH | 2.0 mmol, 120 ml | CC(=O)O | C2H4O2
reactant | HCHO | 500 ml | C=O | CH2O
reactant | NaBH3CN | 1.76 mmol, 111 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | methyl-4-dimethylaminopyrrolidine | 330 mg, 78% | CN1CCC(C1)N(C)C | C7H16N2
